US07074800B1
Using an analogous procedure to that described for the synthesis of the starting material in Example 201, 7-benzyloxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline hydrochloride (2.87 g, 6.4 mmol) was reacted with ammonium formate (6 g, 9.6 mmol) to give 7-hydroxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline (1.91 g, 93%).

reactant | 7-benzyloxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline hydrochloride | 6.4 mmol, 2.87 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C=C(NC2=CC1)C)OC
reactant | ammonium formate | 9.6 mmol, 6 g | C(=O)[O-].[NH4+]
product | 7-hydroxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline | 1.91 g, 93% | OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C=C(NC2=CC1)C)OC | C18H16N4O2
